* C:\users\macmysz\Documents\Projects\onyks_projects\onyks-iot-monitor-power\sim\adc_testing\voltage_sim.asc
* Generated by LTspice 24.1.7 for Windows.
V1 vin N004 SINE(0 325 50)
R2 N002 0 1.8k
C1 N003 N002 10n
R1 N001 vin 200K
R4 N004 0 1Meg
L1 N001 N004 0.6 Rser=120
L2 N002 0 0.6 Rser=120
R5 vout 0 10Meg
D3 0 P001 UMZ5_1N
D4 vout P001 UMZ5_1N
R3 vout N003 1k
.model D D
.lib C:\users\macmysz\AppData\Local\LTspice\lib\cmp\standard.dio
K L1 L2 0.965
.tran 100ms
.backanno
.end
